US05336780
2.62 g (5.2 mmol) of 5-amino-4-chloro-3-methyl-1-(3-phthalimido-O-tosyl-propanehydroximoyl)pyrazole in 15 ml of acetanhydride, to which 0.15 ml of concentrated sulphuric acid has been added, are heated to boiling point and then cooled down. After careful hydrolysis the solid obtained is ground up with methanol and boiled in methanol. The crystals which are produced are filtered off under suction and washed with a little methanol. 1.44 g (47%) of 5-bisacetylamino-4-chloro-3-methyl-1-(3-phthalimido-O-tosyl-propanehydroximoyl)pyrazole with a m. pt. of 143°-147° C. are obtained.

reactant | 5-amino-4-chloro-3-methyl-1-(3-phthalimido-O-tosyl-propanehydroximoyl)pyrazole | 5.2 mmol, 2.62 g | NC1=C(C(=NN1C(CCN1C(C=2C(C1=O)=CC=CC2)=O)=NOS(=O)(=O)C2=CC=C(C)C=C2)C)Cl | C22H20ClN5O5S
reactant | sulphuric acid | 0.15 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetanhydride | 15 ml | CC(=O)OC(=O)C | C4H6O3
solvent | methanol | CO | CH4O
product | 5-bisacetylamino-4-chloro-3-methyl-1-(3-phthalimido-O-tosyl-propanehydroximoyl)pyrazole | 1.44 g, 47% | C(C)(=O)N(C1=C(C(=NN1C(CCN1C(C=2C(C1=O)=CC=CC2)=O)=NOS(=O)(=O)C2=CC=C(C)C=C2)C)Cl)C(C)=O | C26H24ClN5O7S
